US03985880
(2-Perimidyl)methyl benzoate
2-Perimidinemethanol (10 g, .05 mole) and benzoic anhydride (12 g, 0.053 mole) are mixed, then melted and heated on a steam bath for 5 min. A yellow solid results which is taken up in chloroform-water and is treated with ammonia. The separated solid is filtered off and the chloroform layer is dried and concentrated to give a yellow solid. These solids are combined and are recrystallized from ethyl acetate to give the desired product, (2-perimidyl)methyl benzoate, as yellow crystals, m.p. 164°-165°.

reactant | 2-Perimidinemethanol | .05 mole, 10 g | N1C(=NC2=CC=CC3=CC=CC1=C23)CO | C12H10N2O
reactant | benzoic anhydride | 0.053 mole, 12 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | ammonia | N | H3N
solvent | chloroform water | C(Cl)(Cl)Cl.O
product | (2-perimidyl)methyl benzoate | C(C1=CC=CC=C1)(=O)OCC=1NC=2C=CC=C3C=CC=C(N1)C23 | C19H14N2O2
